US04426321
According to the procedure described in Example 1, from 116.6 g of 1-chloro-2,4-pentadiene and 114.2 g of dipropyl ketone (heptan-4-one) in the presence of 200 g of powdered potassium hydroxide in 600 ml of toluene there are obtained 91.9 g of crude 5-ethyl-8-methyl-7,9-decadien-4-one which are subjected to a fractional distillation.

reactant | 1-chloro-2,4-pentadiene | 116.6 g | ClCC=CC=C | C5H7Cl
reactant | dipropyl ketone | 114.2 g | C(CC)C(=O)CCC | C7H14O
reactant | potassium hydroxide | 200 g | [OH-].[K+]
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 5-ethyl-8-methyl-7,9-decadien-4-one | 91.9 g | C(C)C(C(CCC)=O)CC=C(C=C)C | C13H22O
